US05250542
E. Preparation of N-benzyl-2-hydroxyacetamide
The procedure of 84A was followed with methyl2-hydroxyethanoate (8 g) and benzylamine (10 ml in 30 ml H2O). After one hour material precipitated out of solution. The mixture was stirred overnight, and the solid recovered by filtration to provide 4.12 g of white solid. The solvent was removed from the filtrate by vacuum to provide 4.71 g of material The solid and filtrate were combined and passed over a silica column eluting with a gradient of ethyl acetate to ethyl acetate/methanol (v:v, 1:1). Removal of solvent provided 8 g of white crystal product.

reactant | methyl2-hydroxyethanoate | 8 g | COC(CO)=O | C3H6O3
reactant | benzylamine | 10 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-2-hydroxyacetamide | 4.12 g | C(C1=CC=CC=C1)NC(CO)=O | C9H11NO2
